US05736534
[1-(6,7-Dimethoxy-quinazolin-4-yl)-2,3-dihydro-1H-indol-5-yl]-(1-methyl-heptyl)-amine
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 96% yield from [2,3-dihydro-1H-indol-5-yl]-(1-methyl-heptyl)-amine (1.1 eq.), and 4-chloro-6,7-dimethoxy-quinazoline (1.0 eq) in i-PrOH. (M.P. 61°-63° C.; GC-MS: 434 (M+); anal. RP18-HPLC RT: 6.91 min.).

reactant | [2,3-dihydro-1H-indol-5-yl]-(1-methyl-heptyl)-amine | 1.1 eq. | N1CCC2=CC(=CC=C12)NC(CCCCCC)C | C16H26N2
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | i-PrOH | CC(C)O | C3H8O
product | [1-(6,7-Dimethoxy-quinazolin-4-yl)-2,3-dihydro-1H-indol-5-yl]-(1-methyl-heptyl)-amine | 96% yield | COC=1C=C2C(=NC=NC2=CC1OC)N1CCC2=CC(=CC=C12)NC(CCCCCC)C | C26H34N4O2
